US07855290B2
4-(4-Amino-3-fluorophenoxy)pyridine-2-carboxamide
4-Amino-3-fluorophenol (5.7 g) was dissolved in dimethyl sulfoxide (57 ml) under a nitrogen atmosphere, and potassium tert-butoxide (5.6 g) was added at room temperature, followed by stirring for 15 min. To the reaction mixture was added 4-chloropicolylamide (5.0 g), followed by stirring in an oil bath at an external temperature of 80° C. under a nitrogen atmosphere for 50 min. The reaction mixture was allowed to cool down to room temperature. To the reaction mixture was added a 1N aqueous solution of sodium hydroxide (85.5 ml), followed by stirring. The precipitated solid was collected by filtration, and washed with water. The solid was dried under aeration, then hot air-dried at 100° C. to provide the titled compound as pale brown powder (5.88 g, 74.3%).

reactant | 4-Amino-3-fluorophenol | 5.7 g | NC1=C(C=C(C=C1)O)F | C6H6FNO
reactant | potassium tert-butoxide | 5.6 g | CC(C)([O-])C.[K+]
reactant | 4-chloropicolylamide | 5.0 g | ClC1=CC(=NC=C1)C[NH-]
reactant | sodium hydroxide | 85.5 ml | [OH-].[Na+]
solvent | dimethyl sulfoxide | 57 ml | CS(=O)C | C2H6OS
product | 4-(4-Amino-3-fluorophenoxy)pyridine-2-carboxamide | 5.88 g, 74.3% | NC1=C(C=C(OC2=CC(=NC=C2)C(=O)N)C=C1)F | C12H10FN3O2
